US07842696B2
DIPEA (220 mg, 0.3 mL, 0.94 mmol) was added to a stirred solution of 4-morpholin-4-yl-benzoic acid (70 mg, 0.33 mmol) in DMF (5 mL). HOBT (50 mg, 0.37 mmol) and EDCI (142 mg, 0.74 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (137 mg, 0.37 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using 60-120 silica gel and 20%-70% EtOAc in hexane as eluent) to afford 107 mg (60.8% yield) of N-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-morpholin-4-yl-benzamide, LCMS Purity: 71.5%. 1H NMR (DMSO-d6): δ 8.4 (s, 1H), 8.0 (s, 1H), 7.82 (d, 2H), 7.64 (m, 2H), 7.04 (d, 2H), 4.2 (d, 2H), 3.8-3.46 (m, 10H), 3.3 (m, 6H).

reactant | DIPEA | 0.94 mmol, 0.3 mL, 220 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-morpholin-4-yl-benzoic acid | 0.33 mmol, 70 mg | N1(CCOCC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | HOBT | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.74 mmol, 142 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.37 mmol, 137 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-morpholin-4-yl-benzamide | 107 mg, 60.8% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(C2=CC=C(C=C2)N2CCOCC2)=O)=O)C1)C(F)(F)F | C25H26F4N4O4
